US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3H-imidazo[4,5-b]pyridine-5-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.063 g, 0.384 mmol), 3H-imidazo[4,5-b]pyridine-5-carboxylic acid (0.100 g, 0.384 mmol), DIPEA (0.200 ml, 1.151 mmol), HOBt hydrate (0.088 g, 0.575 mmol) and EDCI (0.110 g, 0.575 mmol) using the method of Example 274 affording 0.130 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.17 (d, 3H), 4.45 (m, 3H), 6.93 (d, 1H), 7.99 (m, 6H), 8.64 (s, 1H), 8.99 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.384 mmol, 0.063 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 3H-imidazo[4,5-b]pyridine-5-carboxylic acid | 0.384 mmol, 0.100 g | N1=CNC2=NC(=CC=C21)C(=O)O | C7H5N3O2
reactant | DIPEA | 1.151 mmol, 0.200 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.575 mmol, 0.088 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.575 mmol, 0.110 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3H-imidazo[4,5-b]pyridine-5-carboxamide | 0.130 g | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC=C2C(=N1)NC=N2 | C20H16ClN7O
